US06130217
2-Methylamino-3-nitrophenol
The title compound was prepared from 2-amino-3-nitrophenol according to a procedure adapted from Tet. Lett. 23, 3315 (1982). 2-Amino-3-nitrophenol (7.7 g, 50 mmol) in dry THF (20 mL) was treated dropwise with formic-acetic anhydride (130 mmol) in THF (10 mL) at about -5° C. under N2 (g). After stirring 3 hours the mixture was concentrated in vacuo to a viscous oil which was redissolved in THF (12 mL) and treated dropwise with 2M borane-dimethylsulfide in THF (63 mL) at about -5° C. When the addition was complete the mixture was heated to reflux (2 hours), cooled in ice and quenched with MeOH (20 mL). After stirring for 1 hour at about 22° C., anhydrous HCl was bubbled into the solution to acidity it to about pH 2. The mixture was refluxed for 1 hour and concentrated in vacuo. The residue was dissolved in H2O, neutralized with conc. NH4OH and cooled (16 hours) to produce a dark brown solid. This wet material was dissolved in CHCl3, dried over Na2SO4 and concentrated in vacuo to afford a red-brown solid (6.72 g; >95% purity) which was used directly in the syntheses of 3-methylbenzimidazol-4-ol and 3-methylbenzotriazol-4-ol (below).

reactant | 2-amino-3-nitrophenol | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | 2-Amino-3-nitrophenol | 50 mmol, 7.7 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | formic-acetic anhydride | 130 mmol | C(C)(=O)OC=O | C3H4O3
reactant | 3-methylbenzimidazol-4-ol | CN1C=NC2=C1C(=CC=C2)O | C8H8N2O
reactant | 3-methylbenzotriazol-4-ol | CN1N=NC2=C1C(=CC=C2)O | C7H7N3O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-Methylamino-3-nitrophenol | CNC1=C(C=CC=C1[N+](=O)[O-])O | C7H8N2O3
